US07084176B2
A mixture of 4-hydroxy-3-methoxyphenylacetic acid (4.65 g), pentafluorophenol (4.2 g), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (4.9 g) and methylene chloride (50 ml) was stirred at room temperature for 18 hours. The reaction solution was washed with water, and the organic layer was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: gradient from 0% to 100% hexane/ethyl acetate) to give 4-hydroxy-3-methoxyphenylacetic acid pentafluorophenyl ester (7.8 g). This product is dissolved in ethyl acetate (80 ml), and thereto is added 3-iodeaniline (7.4 g). The mixture is heated at 60° C. under stirring for 18 hours. The solvent is evaporated under reduced pressure, and the residue is purified by silica gel column chromatography (eluent: gradient from 0% to 100% hexane/ethyl acetate) to give the desired compound (6.2 g).

reactant | 4-hydroxy-3-methoxyphenylacetic acid | 4.65 g | OC1=C(C=C(C=C1)CC(=O)O)OC | C9H10O4
reactant | pentafluorophenol | 4.2 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 4.9 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-3-methoxyphenylacetic acid pentafluorophenyl ester | 7.8 g | FC1=C(C(=C(C(=C1OC(CC1=CC(=C(C=C1)O)OC)=O)F)F)F)F | C15H9F5O4
